US04329347
5-Acetamino-6-(4-phenylsulfinyl-butoxy)-carbostyril
Prepared analogous to Example 123 from 5-acetamino-6-(4-phenylmercapto-butoxy)-carbostyril and hydrogen peroxide.

reactant | 5-acetamino-6-(4-phenylmercapto-butoxy)-carbostyril | N(C(=O)C)C1=C2C=CC(NC2=CC=C1OCCCCSC1=CC=CC=C1)=O | C21H22N2O3S
reactant | hydrogen peroxide | OO | H2O2
product | 5-Acetamino-6-(4-phenylsulfinyl-butoxy)-carbostyril | N(C(=O)C)C1=C2C=CC(NC2=CC=C1OCCCCS(=O)C1=CC=CC=C1)=O | C21H22N2O4S
